US09120837B2
To a solution of 4-hydroxybenzenesulfonamide (1.73 g, 10.0 mmol) and tert-butyl(6-bromohexyl)carbamate (2.1 g, 7.5 mmol) in acetonitrile (50 mL) was added anhydrous K2CO3 (2.07 g, 15 mmol). The reaction mixtures were stirred at 75° C. for overnight. Solvent was evaporated under reduced pressure to give a residue. The residue was diluted with 1 N HCl (40 mL), extracted with DCM, and dried over Na2SO4. Solvent was evaporated under reduce pressure to afford a residue, which was purified by biotage eluting with DCM to 10% MeOH in DCM to afford tert-butyl(6-(4-sulfamoylphenoxy)hexyl)carbamate (1.192 g, 43%).

reactant | 4-hydroxybenzenesulfonamide | 10.0 mmol, 1.73 g | OC1=CC=C(C=C1)S(=O)(=O)N | C6H7NO3S
reactant | tert-butyl(6-bromohexyl)carbamate | 7.5 mmol, 2.1 g | C(C)(C)(C)OC(NCCCCCCBr)=O | C11H22BrNO2
reactant | K2CO3 | 15 mmol, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | HCl | 1 N, 40 mL | Cl | ClH
product | tert-butyl(6-(4-sulfamoylphenoxy)hexyl)carbamate | 1.192 g, 43% | C(C)(C)(C)OC(NCCCCCCOC1=CC=C(C=C1)S(N)(=O)=O)=O | C17H28N2O5S
